US06992107B1
3-Hexyl 5-amino-4-oxopentanoate hydrochloride [compound 12]
From 3-hexanol (6.0 ml) and 5-amino-4-oxopentanoic acid hydrochloride (1.0 g; 6.0 mmol) at 100° C. The reaction was complete after 2 days. The yield was 0.87 g (58%) of amber oil.

reactant | 3-hexanol | 6.0 ml | CCC(CCC)O | C6H14O
reactant | 5-amino-4-oxopentanoic acid hydrochloride | 6.0 mmol, 1.0 g | Cl.NCC(CCC(=O)O)=O
product | 3-Hexyl 5-amino-4-oxopentanoate hydrochloride | Cl.NCC(CCC(=O)OC(CC)CCC)=O | InChI=1S/C11H21NO3.ClH/c1-3-5-10(4-2)15-11(14)7-6-9(13)8-12;/h10H,3-8,12H2,1-2H3;1H
